US04064251
A mixture of 20.1 g. (0.0627 mole) of 3-phenyl-5-(2-pyridylcarbonylmethyl)-N-methyl-isoxazole-4-carboxamide and 200 ml. of 2M sulfuric acid is refluxed for 24 hours. The mixture is cooled and made basic with 2N sodium hydroxide and then extracted with methylene chloride. The methylene chloride layer is washed with water, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The resulting solid is purified by column chromatography to give 5-methyl-3-phenyl-6-(2-pyridyl)-isoxazolo[4,5-c]pyridin-4-(5H)-one; m.p. 160° to 162° C.

reactant | 3-phenyl-5-(2-pyridylcarbonylmethyl)-N-methyl-isoxazole-4-carboxamide | 0.0627 mole | C1(=CC=CC=C1)C1=NOC(=C1C(=O)NC)CC(=O)C1=NC=CC=C1 | C18H15N3O3
reactant | sulfuric acid | 2M | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 5-methyl-3-phenyl-6-(2-pyridyl)-isoxazolo[4,5-c]pyridin-4-(5H)-one | CN1C(C2=C(C=C1C1=NC=CC=C1)ON=C2C2=CC=CC=C2)=O | C18H13N3O2
